US06028096
3-Cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-5-methylamino-4-trifluoroacetylpyrazole
To a stirred solution of 5-amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-trifluoroacetylpyrazole (1 g) in anhydrous N,N-dimethylformamide (5 ml) at room temperature was added potassium carbonate (0.69 g), then iodomethane (97 μl). The mixture was stirred at room temperature for one hour. Water (30 ml) was then added, and the mixture was extracted with ether (50 ml, ×2). The combined organic layers were washed with water (30 ml, ×2), and evaporated. The residue was purified by column chromatography on silica gel (50 g) eluted with dichloromethane. Combination and evaporation of suitable fractions gave the title compound as a white solid, m.p 160-161° C.

reactant | 5-amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-trifluoroacetylpyrazole | 1 g | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)C(C(F)(F)F)=O | C13H4Cl2F6N4O
reactant | potassium carbonate | 0.69 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 97 μl | IC | CH3I
reactant | Water | 30 ml | O | H2O
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 3-Cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-5-methylamino-4-trifluoroacetylpyrazole | C(#N)C1=NN(C(=C1C(C(F)(F)F)=O)NC)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl | C14H6Cl2F6N4O
